US07560551B2
Benzene-1,4-diamine (0.337 g, 3.12 mmol) and 1-chloro-4-phenylphthalazine (0.500 g, 2.08 mmol) were treated with 7.5 mL 2-BuOH in a sealed tube and heated to 110° C. The reaction quickly became a solid, yellow mass. After several hours, the reaction was cooled and diluted with water. The slurry was then partitioned between DCM and 1N NaOH. The aqueous layer was extracted into DCM (2×). The combined organic layers were dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. The resulting material was purified by silica gel chromatography, ISCO, 40 g, 0-10% MeOH/MC to give N1-(4-phenylphthalazin-1-yl)benzene-1,4-diamine as an orange-brown solid. MS m/z=313 [M+H]+. Calc'd for C20H16N4: 312.4.

reactant | Benzene-1,4-diamine | 3.12 mmol, 0.337 g | C1(=CC=C(C=C1)N)N | C6H8N2
reactant | 1-chloro-4-phenylphthalazine | 2.08 mmol, 0.500 g | ClC1=NN=C(C2=CC=CC=C12)C1=CC=CC=C1 | C14H9ClN2
solvent | water | O | H2O
product | N1-(4-phenylphthalazin-1-yl)benzene-1,4-diamine | C1(=CC=CC=C1)C1=NN=C(C2=CC=CC=C12)NC1=CC=C(C=C1)N | C20H16N4
